US08541575B2
N-{2,4-Difluoro-3-[4-(2-methylamino-pyridin-4-yl)-1H-pyrazol-3-yl]-phenyl}-2,5-difluoro-benzenesulfonamide
To a solution of {4-[3-(3-amino-2,6-difluoro-phenyl)-1H-pyrazol-4-yl]-pyridin-2-yl}-methyl-amine (144 mg, 0.48 mmol) in anhydrous pyridine (0.2 M), 2,5-difluoro-benzenesulfonyl chloride (64 μL, 0.48 mmol) was added and the reaction mixture was stirred at room temperature under nitrogen atmosphere overnight. The solvent was removed under reduced pressure and the residue was dissolved in ethyl acetate and washed with saturated aqueous NaHCO3. The organic layer was dried over anhydrous sodium sulfate and filtered. The product was isolated by silica gel column chromatography eluting with methanol 5% in methylene chloride (58%).

reactant | {4-[3-(3-amino-2,6-difluoro-phenyl)-1H-pyrazol-4-yl]-pyridin-2-yl}-methyl-amine | 0.48 mmol, 144 mg | NC=1C(=C(C(=CC1)F)C1=NNC=C1C1=CC(=NC=C1)NC)F | C15H13F2N5
reactant | 2,5-difluoro-benzenesulfonyl chloride | 0.48 mmol, 64 μL | FC1=C(C=C(C=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | pyridine | 0.2 M | N1=CC=CC=C1 | C5H5N
product | N-{2,4-Difluoro-3-[4-(2-methylamino-pyridin-4-yl)-1H-pyrazol-3-yl]-phenyl}-2,5-difluoro-benzenesulfonamide | FC1=C(C=CC(=C1C1=NNC=C1C1=CC(=NC=C1)NC)F)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C21H15F4N5O2S
